US06869966B2
(1) Preparation of Methyl 6-chloronicotinate N-oxide
2-chloro-5-methoxycarbonylpyridine (7.0 g) and urea-hydrogen peroxide adduct (6.93 g) were suspended in acetonitrile (100 mL), and trifluoroacetic anhydride (9.92 mL) was dropwise added thereto at 0° C. The reaction mixture was stirred at room temperature for 5 hours, and evaporated in vacuo to remove the solvent. After addition of saturated aqueous sodium hydrogen carbonate and aqueous sodium thiosulfate to the residue, the mixture was extracted 5 times with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate, and filtered to remove the sodium sulfate. The organic solvent was evaporated in vacuo and the resulting residue was purified by column chromatography on silica gel (hexane:ethyl acetate=2:8) to give the title compound as a pale brown solid (8.0 g).

reactant | 2-chloro-5-methoxycarbonylpyridine | 7.0 g | ClC1=NC=C(C=C1)C(=O)OC | C7H6ClNO2
reactant | urea hydrogen peroxide | 6.93 g | NC(=O)N.OO
reactant | trifluoroacetic anhydride | 9.92 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | Methyl 6-chloronicotinate N-oxide | 8.0 g | ClC1=[N+](C=C(C(=O)OC)C=C1)[O-] | C7H6ClNO3
